US08378095B2
A suspension of ethyl 2-(2,6-difluorophenyl)-5-ethoxyoxazole-4-carboxylate (2.10 g, 7.1 mmol) in 1M aqueous potassium hydroxide and heated to 100° C. for 6 hours. The mixture was then cooled to 0° C. and acidified to pH 3 by 2M aqueous HCl. The resulting white solid was filtered, washed with water and dried in a vacuum oven to afford 2-(2,6-difluorophenyl)-5-ethoxyoxazole-4-carboxylic acid (1.28 g, 4.8 mmol, 67%). 1H NMR (CD3OD) δ 1.52 (3H, t), 4.61 (2H, q), 7.19 (2H, t), 7.61 (1H, m). LCMS (1) Rt: 1.09 min; m/z (ES+) 270.

reactant | ethyl 2-(2,6-difluorophenyl)-5-ethoxyoxazole-4-carboxylate | 7.1 mmol, 2.10 g | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C(=O)OCC)OCC | C14H13F2NO4
reactant | HCl | 2M | Cl | ClH
solvent | potassium hydroxide | 1M | [OH-].[K+]
product | 2-(2,6-difluorophenyl)-5-ethoxyoxazole-4-carboxylic acid | 4.8 mmol, 1.28 g, 67% | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C(=O)O)OCC | C12H9F2NO4
